US09422307B2
N4-benzyl-7-ethyl-N2-(2-morpholinoethyl)thieno[3,2-d]pyrimidin-2,4-diamine
Raney Ni was added to (R)—N2-(2-Morpholinoethyl)-N4-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-2,4-diamine (10 mg, 0.025 mmol) in methanol (1 mL), and the mixture was stirred at room temperature for 24 hours under a pressure of a balloon filled with hydrogen gas. Filtration of the reaction mixture with celite followed by washing with methanol and concentration yielded the target compound (9 mg, 89% yield).

reactant | (R)—N2-(2-Morpholinoethyl)-N4-(1-phenylethyl)-7-vinylthieno[3,2-d]pyrimidin-2,4-diamine | 0.025 mmol, 10 mg | O1CCN(CC1)CCNC=1N=C(C2=C(N1)C(=CS2)C=C)N[C@H](C)C2=CC=CC=C2 | C22H27N5OS
reactant | hydrogen | [H][H] | H2
solvent | methanol | 1 mL | CO | CH4O
catalyst | Ni | [Ni] | Ni
product | N4-benzyl-7-ethyl-N2-(2-morpholinoethyl)thieno[3,2-d]pyrimidin-2,4-diamine | 9 mg, 89% yield | C(C1=CC=CC=C1)NC=1C2=C(N=C(N1)NCCN1CCOCC1)C(=CS2)CC | C21H27N5OS
